US07723369B2
{4-[2-(4-Bromo-benzyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenylamino}-acetic acid methyl ester (1.8 g, 3.3 mmol) was coupled with 4-sec butyl-phenyl boronic acid (750 mg, 4.0 mmol) according to general procedure G to give {4-[2-(4′-sec-butyl-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenylamino}-acetic acid methyl ester.

reactant | {4-[2-(4-Bromo-benzyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenylamino}-acetic acid methyl ester | 3.3 mmol, 1.8 g | COC(CNC1=CC=C(C=C1)N1C(=NC(=C1)C1=C(C=C(C=C1)Cl)Cl)CC1=CC=C(C=C1)Br)=O | C25H20BrCl2N3O2
reactant | butyl-phenyl boronic acid | 4.0 mmol, 750 mg | C(CCC)OB(O)C1=CC=CC=C1 | C10H15BO2
product | {4-[2-(4′-sec-butyl-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenylamino}-acetic acid methyl ester | COC(CNC1=CC=C(C=C1)N1C(=NC(=C1)C1=C(C=C(C=C1)Cl)Cl)CC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)CC)=O | C35H33Cl2N3O2
